data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4992,5680,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[c-:19]1[o+:20][c:21]([C:22]([CH3:23])=[O:24])[o:25][c:26]1=[O:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:19]1([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([C:22]([CH3:23])=[O:24])[O:25][C:26]1=[O:27],water,298.15,19.548237021959864,-7.929317808786205
4474,5107,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C:22]([CH3:23])=[O:24].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:15]([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)=[N:14][C:13]1([C:11]([CH3:10])=[O:12])[C:22]([CH3:23])=[O:24],water,298.15,15.125686867211549,-18.117889762111147
2363,2625,[CH3:13][N+:14](=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C-:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[CH:15]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[N:14]([CH3:13])[C:22]3([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,11.672467361318676,-48.90446077298889
4142,4743,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C:18]#[N+:19][N-:20][C:21]#[N:22]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[N:20]([C:21]#[N:22])[N:19]=[C:18]2[C:16]([CH3:15])=[O:17],water,298.15,15.025341642528907,-32.10674053528736
407,445,[CH3:14][O:15][C:16](=[O:17])[N-:18][N+:19]#[N:20].[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[CH3:1][O:2][C:3]1([F:4])[c:5]2[c:6]([n:18]([C:16]([O:15][CH3:14])=[O:17])[n:19][n:20]2)[C:7]([F:8])([F:9])[CH2:10][CH2:11][CH2:12][CH2:13]1,water,298.15,24.79582595869542,-49.00654677044418
103,118,[CH2-:7][O+:8]=[C:9]([CH3:10])[C:11]([CH3:12])=[O:13].[CH3:1][C:2](=[O:3])[C:4]#[C:5][Br:6]>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[C:9]([CH3:10])([C:11]([CH3:12])=[O:13])[O:8][CH2:7]1,water,298.15,5.491292373976378,-79.43217093781624
2914,3242,[CH2:1]=[CH2:2].[CH3:3][c-:4]1[o+:5][c:6]([C:7]#[N:8])[o:9][c:10]1=[O:11]>>[CH2:1]1[CH2:2][C:4]2([CH3:3])[O:5][C:6]1([C:7]#[N:8])[O:9][C:10]2=[O:11],water,298.15,8.674037252957325,-40.96011798196263
2900,3223,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][N-:6][N+:7]#[N:8]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:6]([CH3:5])[N:7]=[N:8]1,water,298.15,31.90441708733256,-12.31907271244793
3043,3407,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[N-:9][N+:10]([CH3:11])=[N:12][C:13]#[N:14]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[N:9]([C:7]([NH:6][CH3:5])=[O:8])[N:10]([CH3:11])[N:12]1[C:13]#[N:14],water,298.15,27.60280038826369,-14.518232098076233
4972,5659,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][N-:16][O+:17]=[C:18]([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1>>[C:1]1(=[O:2])[C@:3]2([O:4][CH3:5])[C@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[N:16]([CH3:15])[O:17][C:18]2([C:19]([CH3:20])=[O:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,6.5169833025442605,-27.908082614786714
994,1083,[CH3:10][NH:11][C:12](=[O:13])[CH-:14][N+:15]([CH3:16])=[C:17]([CH3:18])[C:19](=[O:20])[NH:21][CH3:22].[CH3:1][C:2]1=[C:3]([Cl:4])[CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][C:2]12[C:3]([Cl:4])([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[CH:14]([C:12]([NH:11][CH3:10])=[O:13])[N:15]([CH3:16])[C:17]2([CH3:18])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,17.55205507165343,-32.908593335675924
3565,4063,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][C:6](=[O:7])[C:8]([C:9]#[N:10])=[N+:11]([CH3:12])[CH-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[N:11]([CH3:12])[C:8]1([C:6]([CH3:5])=[O:7])[C:9]#[N:10],water,298.15,24.99661200757587,-16.799295119797552
4996,5684,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][NH:16][C:17](=[O:18])[C:19]([C:20]#[N:21])=[NH+:22][C-:23]([CH3:24])[C:25]([CH3:26])=[O:27]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:23]([CH3:24])([C:25]([CH3:26])=[O:27])[NH:22][C:19]2([C:17]([NH:16][CH3:15])=[O:18])[C:20]#[N:21],water,298.15,29.48988206210091,-1.2460438383555896
